US06852731B2
3-[(Allyloxy)methyl]-N-(4-chlorobenzyl)-2-formyl-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a cold (−78° C.), stirred solution of 922 mg of 3-[(allyloxy)methyl]-N-(4-chlorobenzyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide in 30 mL of dry THF, under argon, is added via cannula a THF solution of LDA, prepared in the usual manner from 1.3 mL of diisopropylamine and 2.7 mL of 2.5 M (hexanes) butyllithium in 20 mL of THF. The solution is stirred at −78° C. for 10 min, then 0.89 mL of dry DMF is added, and the mixture is allowed to warm to 0° C. After 10 min, aqueous workup (CHCl3/dil. HCl) is performed and is followed by flash chromatography on silica using 1.5% MeOH in CH2Cl2 to provide 620 mg of the title compound as a yellow-orange solid. Recrystallization from EtOAc gives yellow crystals.

reactant | 3-[(allyloxy)methyl]-N-(4-chlorobenzyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 922 mg | C(C=C)OCC1=CSC2=C1N(C=C(C2=O)C(=O)NCC2=CC=C(C=C2)Cl)C | C20H19ClN2O3S
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropylamine | 1.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | HCl | Cl | ClH
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 0.89 mL | CN(C)C=O | C3H7NO
product | 3-[(Allyloxy)methyl]-N-(4-chlorobenzyl)-2-formyl-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 620 mg | C(C=C)OCC1=C(SC2=C1N(C=C(C2=O)C(=O)NCC2=CC=C(C=C2)Cl)C)C=O | C21H19ClN2O4S
